US04145347
From 12.8 g. of ethyl 2-oxo-1-pyrrolidineacetate and 19.2 g. of 2-(1-piperidinyl)ethylamine [Compt. rend. 233, 1121 (1951)], following the procedure of Example 1, there is obtained 2-oxo-N-[2-(1-piperidinyl)ethyl]-1-pyrrolidineacetamide; b.p. 185°-187° C./0.15 mm.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 2-(1-piperidinyl)ethylamine | N1(CCCCC1)CCN | C7H16N2
product | 2-oxo-N-[2-(1-piperidinyl)ethyl]-1-pyrrolidineacetamide | O=C1N(CCC1)CC(=O)NCCN1CCCCC1 | C13H23N3O2
